** sch_path: /foss/designs/ristretto/ihp13g2cmos5l_ristretto/v2_feature_extr_withf/padframe_withf.sch
**.subckt padframe_withf en_feedback_in en_feedback_out SPI_CS_N_out SPI_CS_N_in SPI_MISO_out SPI_MISO_in SPI_SCK_out SPI_SCK_in
*+ SPI_MOSI_out SPI_MOSI_in SPI_RST_N_out SPI_RST_N_in C2F_REQ_out C2F_REQ_in C2F_ACK_out C2F_ACK_in C2F_COMP_out C2F_COMP_in NN1_REQ_out
*+ NN1_REQ_in NN1_ACK_out NN1_ACK_in NN2_REQ_out NN2_REQ_in NN2_ACK_out NN2_ACK_in V2I_INN_out V2I_INP_out NN3_REQ_in BG_PROBE_in
*+ NN1_MEM_PROBE_in NN2_MEM_PROBE_in NN3_MEM_PROBE_in NN3_ACK_out BG_BIAS_out BG_100kRES_out BG_100mV_out NN3_ACK_in BG_100kRES_in BG_BIAS_in
*+ BG_100mV_in V2I_INN_in NN3_REQ_out BG_PROBE_out NN1_MEM_PROBE_out NN2_MEM_PROBE_out NN3_MEM_PROBE_out V2I_INP_in vbias_in vspkthr_in vref_in
*+ vout_amp_out vbias_bufP_in vout_dn_out vmem_dn_out vleak_in vbias_bufN_in vmem_up_out vout_up_out ch_sel_in req_dn_out req_up_out vgain_in
*+ iovss iovdd vdd vss ch_sel_out vbias_bufN_out vref_out vbias_out vspkthr_out req_dn_in req_up_in vmem_dn_in vout_dn_in vbias_bufP_out
*+ vleak_out vout_up_in vgain_out vout_amp_in vmem_up_in vin_p_ch1_out vin_p_ch1_in ack_up_out vin_n_ch1_out ack_up_in vin_n_ch1_in ack_dn_out
*+ vin_p_ch2_out ack_dn_in vin_p_ch2_in vin_n_ch2_out vin_n_ch2_in vthr_h_out vthr_h_in vthr_l_out vthr_l_in
*.iopin iovss
*.iopin iovdd
*.iopin vdd
*.iopin vss
*.ipin vin_p_ch1_in
*.ipin vin_n_ch1_in
*.ipin vin_p_ch2_in
*.ipin vin_n_ch2_in
*.opin vin_p_ch1_out
*.opin vin_n_ch1_out
*.opin vin_p_ch2_out
*.opin vin_n_ch2_out
*.ipin vthr_h_in
*.ipin vthr_l_in
*.opin vthr_h_out
*.opin vthr_l_out
*.ipin vout_amp_in
*.ipin vout_up_in
*.ipin vout_dn_in
*.opin vout_amp_out
*.opin vout_up_out
*.opin vout_dn_out
*.ipin ch_sel_in
*.opin ch_sel_out
*.ipin vbias_in
*.opin vbias_out
*.ipin vbias_bufN_in
*.opin vbias_bufN_out
*.ipin vbias_bufP_in
*.opin vbias_bufP_out
*.ipin vgain_in
*.ipin vleak_in
*.ipin vspkthr_in
*.ipin vref_in
*.opin vgain_out
*.opin vleak_out
*.opin vspkthr_out
*.opin vref_out
*.ipin vmem_up_in
*.ipin vmem_dn_in
*.ipin req_up_in
*.ipin req_dn_in
*.opin vmem_up_out
*.opin vmem_dn_out
*.opin req_up_out
*.opin req_dn_out
*.ipin ack_up_in
*.opin ack_up_out
*.ipin ack_dn_in
*.opin ack_dn_out
*.ipin V2I_INP_in
*.ipin V2I_INN_in
*.ipin NN3_MEM_PROBE_in
*.ipin NN2_MEM_PROBE_in
*.ipin NN1_MEM_PROBE_in
*.ipin BG_100mV_in
*.ipin BG_BIAS_in
*.iopin BG_100kRES_in
*.ipin BG_PROBE_in
*.ipin NN3_ACK_in
*.ipin NN3_REQ_in
*.opin V2I_INP_out
*.opin V2I_INN_out
*.opin NN3_MEM_PROBE_out
*.opin NN2_MEM_PROBE_out
*.opin NN1_MEM_PROBE_out
*.opin BG_100mV_out
*.opin BG_BIAS_out
*.iopin BG_100kRES_out
*.opin BG_PROBE_out
*.opin NN3_ACK_out
*.opin NN3_REQ_out
*.ipin NN2_ACK_in
*.ipin NN1_ACK_in
*.ipin NN2_REQ_in
*.ipin NN1_REQ_in
*.ipin C2F_COMP_in
*.ipin C2F_ACK_in
*.ipin C2F_REQ_in
*.ipin SPI_RST_N_in
*.ipin SPI_MOSI_in
*.ipin SPI_SCK_in
*.ipin SPI_CS_N_in
*.ipin SPI_MISO_in
*.opin NN2_ACK_out
*.opin NN1_ACK_out
*.opin NN2_REQ_out
*.opin NN1_REQ_out
*.opin C2F_COMP_out
*.opin C2F_ACK_out
*.opin C2F_REQ_out
*.opin SPI_RST_N_out
*.opin SPI_MOSI_out
*.opin SPI_SCK_out
*.opin SPI_MISO_out
*.opin SPI_CS_N_out
*.ipin en_feedback_in
*.opin en_feedback_out
x1 iovdd iovss vout_up_out vout_up_in vdd vss sg13cmos5l_IOPadAnalog
x6 iovdd iovss vout_dn_out vout_dn_in vdd vss sg13cmos5l_IOPadAnalog
x7 iovdd iovss vbias_bufP_in vbias_bufP_out vdd vss sg13cmos5l_IOPadAnalog
x8 iovdd iovss vbias_in vbias_out vdd vss sg13cmos5l_IOPadAnalog
x9 iovdd iovss vthr_h_in vthr_h_out vdd vss sg13cmos5l_IOPadAnalog
x10 iovdd iovss vthr_l_in vthr_l_out vdd vss sg13cmos5l_IOPadAnalog
x16 iovdd iovss vdd vss sg13cmos5l_IOPadVdd
x17 iovdd iovss SPI_CS_N_out SPI_CS_N_in vdd vss sg13cmos5l_IOPadIn
x18 iovdd iovss SPI_MOSI_out SPI_MOSI_in vdd vss sg13cmos5l_IOPadIn
x19 iovdd iovss SPI_SCK_out SPI_SCK_in vdd vss sg13cmos5l_IOPadIn
x25 NN2_REQ_in iovdd iovss NN2_REQ_out vdd vss sg13cmos5l_IOPadOut16mA
x26 iovdd iovss NN2_ACK_out NN2_ACK_in vdd vss sg13cmos5l_IOPadIn
x27 iovdd iovss vdd vss sg13cmos5l_IOPadIOVdd
x21 iovdd iovss C2F_ACK_out C2F_ACK_in vdd vss sg13cmos5l_IOPadIn
x22 C2F_COMP_in iovdd iovss C2F_COMP_out vdd vss sg13cmos5l_IOPadOut16mA
x23 NN1_REQ_in iovdd iovss NN1_REQ_out vdd vss sg13cmos5l_IOPadOut16mA
x24 iovdd iovss NN1_ACK_out NN1_ACK_in vdd vss sg13cmos5l_IOPadIn
x49 iovdd iovss vdd vss sg13cmos5l_Filler400
x51 iovdd iovss vdd vss sg13cmos5l_Filler400
x52 iovdd iovss vdd vss sg13cmos5l_Filler400
x54 iovdd iovss vdd vss sg13cmos5l_Filler400
x55 iovdd iovss vdd vss sg13cmos5l_Filler400
x57 iovdd iovss vdd vss sg13cmos5l_Filler400
x58 iovdd iovss vdd vss sg13cmos5l_Filler400
x60 iovdd iovss vdd vss sg13cmos5l_Filler400
x61 iovdd iovss vdd vss sg13cmos5l_Filler400
x63 iovdd iovss vdd vss sg13cmos5l_Filler400
x64 iovdd iovss vdd vss sg13cmos5l_Filler400
x65 iovdd iovss vdd vss sg13cmos5l_Filler4000
x66 iovdd iovss vdd vss sg13cmos5l_Filler400
x67 iovdd iovss vdd vss sg13cmos5l_Filler400
x73 SPI_MISO_in iovdd iovss SPI_MISO_out vdd vss sg13cmos5l_IOPadOut16mA
x133 iovdd iovss vdd vss sg13cmos5l_IOPadVdd
x134 iovdd iovss vin_p_ch2_in vin_p_ch2_out vdd vss sg13cmos5l_IOPadAnalog
x135 iovdd iovss vin_n_ch1_in vin_n_ch1_out vdd vss sg13cmos5l_IOPadAnalog
x136 iovdd iovss vin_p_ch1_in vin_p_ch1_out vdd vss sg13cmos5l_IOPadAnalog
x139 iovdd iovss vout_amp_out vout_amp_in vdd vss sg13cmos5l_IOPadAnalog
x140 iovdd iovss vin_n_ch2_in vin_n_ch2_out vdd vss sg13cmos5l_IOPadAnalog
x141 req_up_in iovdd iovss req_up_out vdd vss sg13cmos5l_IOPadOut16mA
x142 req_dn_in iovdd iovss req_dn_out vdd vss sg13cmos5l_IOPadOut16mA
x149 iovdd iovss vmem_dn_out vmem_dn_in vdd vss sg13cmos5l_IOPadAnalog
x150 iovdd iovss vmem_up_out vmem_up_in vdd vss sg13cmos5l_IOPadAnalog
x137 iovdd iovss vgain_in vgain_out vdd vss sg13cmos5l_IOPadAnalog
x138 iovdd iovss ack_up_out ack_up_in vdd vss sg13cmos5l_IOPadIn
x147 iovdd iovss ack_dn_out ack_dn_in vdd vss sg13cmos5l_IOPadIn
x148 iovdd iovss vdd vss sg13cmos5l_IOPadVss
x152 iovdd iovss vleak_in vleak_out vdd vss sg13cmos5l_IOPadAnalog
x153 iovdd iovss vspkthr_in vspkthr_out vdd vss sg13cmos5l_IOPadAnalog
x171 iovdd iovss vdd vss sg13cmos5l_IOPadVss
x155 iovdd iovss vdd vss sg13cmos5l_IOPadIOVss
x156 iovdd iovss vdd vss sg13cmos5l_IOPadIOVdd
x157 iovdd iovss vdd vss sg13cmos5l_IOPadVss
x158 iovdd iovss V2I_INP_in V2I_INP_out vdd vss sg13cmos5l_IOPadAnalog
x159 iovdd iovss V2I_INN_in V2I_INN_out vdd vss sg13cmos5l_IOPadAnalog
x160 iovdd iovss NN3_MEM_PROBE_out NN3_MEM_PROBE_in vdd vss sg13cmos5l_IOPadAnalog
x164 iovdd iovss NN2_MEM_PROBE_out NN2_MEM_PROBE_in vdd vss sg13cmos5l_IOPadAnalog
x165 iovdd iovss BG_BIAS_in BG_BIAS_out vdd vss sg13cmos5l_IOPadAnalog
x166 iovdd iovss BG_100kRES_in BG_100kRES_out vdd vss sg13cmos5l_IOPadAnalog
x167 iovdd iovss BG_PROBE_out BG_PROBE_in vdd vss sg13cmos5l_IOPadAnalog
x168 iovdd iovss NN3_ACK_out NN3_ACK_in vdd vss sg13cmos5l_IOPadIn
x169 NN3_REQ_in iovdd iovss NN3_REQ_out vdd vss sg13cmos5l_IOPadOut16mA
x170 iovdd iovss vdd vss sg13cmos5l_IOPadVdd
x172 iovdd iovss vdd vss sg13cmos5l_IOPadVss
x173 iovdd iovss BG_100mV_in BG_100mV_out vdd vss sg13cmos5l_IOPadAnalog
x174 iovdd iovss NN1_MEM_PROBE_out NN1_MEM_PROBE_in vdd vss sg13cmos5l_IOPadAnalog
x151 iovdd iovss ch_sel_out ch_sel_in vdd vss sg13cmos5l_IOPadIn
x239 iovdd iovss vbias_bufN_in vbias_bufN_out vdd vss sg13cmos5l_IOPadAnalog
x15 iovdd iovss vref_in vref_out vdd vss sg13cmos5l_IOPadAnalog
x31 iovdd iovss vdd vss sg13cmos5l_Filler2000
x20 iovdd iovss vdd vss sg13cmos5l_Filler400
x32 iovdd iovss vdd vss sg13cmos5l_Filler400
x33 iovdd iovss vdd vss sg13cmos5l_Filler400
x34 iovdd iovss vdd vss sg13cmos5l_Filler400
x36 iovdd iovss vdd vss sg13cmos5l_Filler400
x37 iovdd iovss vdd vss sg13cmos5l_Filler400
x39 iovdd iovss vdd vss sg13cmos5l_Filler400
x40 iovdd iovss vdd vss sg13cmos5l_Filler400
x42 iovdd iovss vdd vss sg13cmos5l_Filler400
x43 iovdd iovss vdd vss sg13cmos5l_Filler400
x45 iovdd iovss vdd vss sg13cmos5l_Filler400
x46 iovdd iovss vdd vss sg13cmos5l_Filler400
x48 iovdd iovss vdd vss sg13cmos5l_Filler400
x68 iovdd iovss vdd vss sg13cmos5l_Filler400
x69 iovdd iovss vdd vss sg13cmos5l_Filler400
x111 iovdd iovss vdd vss sg13cmos5l_Filler400
x112 iovdd iovss vdd vss sg13cmos5l_Filler400
x175 iovdd iovss vdd vss sg13cmos5l_Filler400
x176 iovdd iovss vdd vss sg13cmos5l_Filler400
x177 iovdd iovss vdd vss sg13cmos5l_Filler400
x178 iovdd iovss vdd vss sg13cmos5l_Filler400
x179 iovdd iovss vdd vss sg13cmos5l_Filler400
x180 iovdd iovss vdd vss sg13cmos5l_Filler400
x181 iovdd iovss vdd vss sg13cmos5l_Filler400
x182 iovdd iovss vdd vss sg13cmos5l_Filler400
x183 iovdd iovss vdd vss sg13cmos5l_Filler400
x184 iovdd iovss vdd vss sg13cmos5l_Filler400
x185 iovdd iovss vdd vss sg13cmos5l_Filler400
x186 iovdd iovss vdd vss sg13cmos5l_Filler400
x187 iovdd iovss vdd vss sg13cmos5l_Filler400
x188 iovdd iovss vdd vss sg13cmos5l_Filler400
x189 iovdd iovss vdd vss sg13cmos5l_Filler400
x190 iovdd iovss vdd vss sg13cmos5l_Filler400
x191 iovdd iovss vdd vss sg13cmos5l_Filler400
x192 iovdd iovss vdd vss sg13cmos5l_Filler400
x193 iovdd iovss vdd vss sg13cmos5l_Filler400
x194 iovdd iovss vdd vss sg13cmos5l_Filler400
x215 iovdd iovss vdd vss sg13cmos5l_Filler400
x216 iovdd iovss vdd vss sg13cmos5l_Filler400
x217 iovdd iovss vdd vss sg13cmos5l_Filler400
x218 iovdd iovss vdd vss sg13cmos5l_Filler400
x219 iovdd iovss vdd vss sg13cmos5l_Filler400
x220 iovdd iovss vdd vss sg13cmos5l_Filler400
x221 iovdd iovss vdd vss sg13cmos5l_Filler400
x222 iovdd iovss vdd vss sg13cmos5l_Filler400
x223 iovdd iovss vdd vss sg13cmos5l_Filler400
x224 iovdd iovss vdd vss sg13cmos5l_Filler400
x225 iovdd iovss vdd vss sg13cmos5l_Filler400
x226 iovdd iovss vdd vss sg13cmos5l_Filler400
x227 iovdd iovss vdd vss sg13cmos5l_Filler400
x228 iovdd iovss vdd vss sg13cmos5l_Filler400
x229 iovdd iovss vdd vss sg13cmos5l_Filler400
x230 iovdd iovss vdd vss sg13cmos5l_Filler400
x231 iovdd iovss vdd vss sg13cmos5l_Filler400
x232 iovdd iovss vdd vss sg13cmos5l_Filler400
x233 iovdd iovss vdd vss sg13cmos5l_Filler400
x234 iovdd iovss vdd vss sg13cmos5l_Filler400
x235 iovdd iovss vdd vss sg13cmos5l_Filler400
x236 iovdd iovss vdd vss sg13cmos5l_Filler400
x237 iovdd iovss vdd vss sg13cmos5l_Filler400
x238 iovdd iovss vdd vss sg13cmos5l_Filler400
x240 iovdd iovss vdd vss sg13cmos5l_Filler400
x241 iovdd iovss vdd vss sg13cmos5l_Filler400
x242 iovdd iovss vdd vss sg13cmos5l_Filler400
x243 iovdd iovss vdd vss sg13cmos5l_Filler400
x244 iovdd iovss vdd vss sg13cmos5l_Filler400
x245 iovdd iovss vdd vss sg13cmos5l_Filler400
x246 iovdd iovss vdd vss sg13cmos5l_Filler400
x79 iovdd iovss vdd vss sg13cmos5l_Filler400
x81 iovdd iovss vdd vss sg13cmos5l_Filler400
x82 iovdd iovss vdd vss sg13cmos5l_Filler400
x84 iovdd iovss vdd vss sg13cmos5l_Filler400
x85 iovdd iovss vdd vss sg13cmos5l_Filler400
x87 iovdd iovss vdd vss sg13cmos5l_Filler400
x88 iovdd iovss vdd vss sg13cmos5l_Filler400
x90 iovdd iovss vdd vss sg13cmos5l_Filler400
x91 iovdd iovss vdd vss sg13cmos5l_Filler400
x93 iovdd iovss vdd vss sg13cmos5l_Filler400
x94 iovdd iovss vdd vss sg13cmos5l_Filler400
x96 iovdd iovss vdd vss sg13cmos5l_Filler400
x97 iovdd iovss vdd vss sg13cmos5l_Filler400
x98 iovdd iovss vdd vss sg13cmos5l_Filler2000
x99 iovdd iovss vdd vss sg13cmos5l_Filler400
x100 iovdd iovss vdd vss sg13cmos5l_Filler400
x101 iovdd iovss vdd vss sg13cmos5l_Filler400
x102 iovdd iovss vdd vss sg13cmos5l_Filler400
x103 iovdd iovss vdd vss sg13cmos5l_Filler400
x104 iovdd iovss vdd vss sg13cmos5l_Filler400
x105 iovdd iovss vdd vss sg13cmos5l_Filler400
x106 iovdd iovss vdd vss sg13cmos5l_Filler400
x107 iovdd iovss vdd vss sg13cmos5l_Filler400
x108 iovdd iovss vdd vss sg13cmos5l_Filler400
x109 iovdd iovss vdd vss sg13cmos5l_Filler400
x110 iovdd iovss vdd vss sg13cmos5l_Filler400
x113 iovdd iovss vdd vss sg13cmos5l_Filler400
x114 iovdd iovss vdd vss sg13cmos5l_Filler400
x115 iovdd iovss vdd vss sg13cmos5l_Filler400
x116 iovdd iovss vdd vss sg13cmos5l_Filler400
x117 iovdd iovss vdd vss sg13cmos5l_Filler400
x118 iovdd iovss vdd vss sg13cmos5l_Filler400
x119 iovdd iovss vdd vss sg13cmos5l_Filler400
x120 iovdd iovss vdd vss sg13cmos5l_Filler400
x121 iovdd iovss vdd vss sg13cmos5l_Filler400
x122 iovdd iovss vdd vss sg13cmos5l_Filler400
x123 iovdd iovss vdd vss sg13cmos5l_Filler400
x124 iovdd iovss vdd vss sg13cmos5l_Filler400
x125 iovdd iovss vdd vss sg13cmos5l_Filler400
x126 iovdd iovss vdd vss sg13cmos5l_Filler400
x127 iovdd iovss vdd vss sg13cmos5l_Filler400
x128 iovdd iovss vdd vss sg13cmos5l_Filler400
x129 iovdd iovss vdd vss sg13cmos5l_Filler400
x130 iovdd iovss vdd vss sg13cmos5l_Filler400
x131 iovdd iovss vdd vss sg13cmos5l_Filler400
x132 iovdd iovss vdd vss sg13cmos5l_Filler400
x195 iovdd iovss vdd vss sg13cmos5l_Filler400
x196 iovdd iovss vdd vss sg13cmos5l_Filler400
x197 iovdd iovss vdd vss sg13cmos5l_Filler400
x198 iovdd iovss vdd vss sg13cmos5l_Filler400
x199 iovdd iovss vdd vss sg13cmos5l_Filler400
x200 iovdd iovss vdd vss sg13cmos5l_Filler400
x201 iovdd iovss vdd vss sg13cmos5l_Filler400
x202 iovdd iovss vdd vss sg13cmos5l_Filler400
x203 iovdd iovss vdd vss sg13cmos5l_Filler400
x204 iovdd iovss vdd vss sg13cmos5l_Filler400
x205 iovdd iovss vdd vss sg13cmos5l_Filler400
x206 iovdd iovss vdd vss sg13cmos5l_Filler400
x207 iovdd iovss vdd vss sg13cmos5l_Filler400
x208 iovdd iovss vdd vss sg13cmos5l_Filler400
x209 iovdd iovss vdd vss sg13cmos5l_Filler400
x210 iovdd iovss vdd vss sg13cmos5l_Filler400
x211 iovdd iovss vdd vss sg13cmos5l_Filler400
x212 iovdd iovss vdd vss sg13cmos5l_Filler400
x213 iovdd iovss vdd vss sg13cmos5l_Filler400
x214 iovdd iovss vdd vss sg13cmos5l_Filler400
x247 iovdd iovss vdd vss sg13cmos5l_Filler400
x248 iovdd iovss vdd vss sg13cmos5l_Filler400
x249 iovdd iovss vdd vss sg13cmos5l_Filler400
x250 iovdd iovss vdd vss sg13cmos5l_Filler400
x251 iovdd iovss vdd vss sg13cmos5l_Filler400
x252 iovdd iovss vdd vss sg13cmos5l_Filler400
x253 iovdd iovss vdd vss sg13cmos5l_Filler400
x254 iovdd iovss vdd vss sg13cmos5l_Filler400
x255 iovdd iovss vdd vss sg13cmos5l_Filler400
x256 iovdd iovss vdd vss sg13cmos5l_Filler400
x257 iovdd iovss vdd vss sg13cmos5l_Filler400
x258 iovdd iovss vdd vss sg13cmos5l_Filler400
x259 iovdd iovss vdd vss sg13cmos5l_Filler400
x260 iovdd iovss vdd vss sg13cmos5l_Filler400
x261 iovdd iovss vdd vss sg13cmos5l_Filler400
x262 iovdd iovss vdd vss sg13cmos5l_Filler400
x2 iovdd iovss vdd vss sg13cmos5l_IOPadIOVdd
x3 iovdd iovss vdd vss sg13cmos5l_IOPadVdd
x4 iovdd iovss vdd vss sg13cmos5l_IOPadIOVss
x5 C2F_REQ_in iovdd iovss C2F_REQ_out vdd vss sg13cmos5l_IOPadOut16mA
x11 iovdd iovss SPI_RST_N_out SPI_RST_N_in vdd vss sg13cmos5l_IOPadIn
x12 iovdd iovss vdd vss sg13cmos5l_IOPadIOVss
x13 iovdd iovss vdd vss sg13cmos5l_IOPadIOVdd
x14 iovdd iovss en_feedback_out en_feedback_in vdd vss sg13cmos5l_IOPadIn
x70 iovdd iovss vdd vss sg13cmos5l_IOPadVss
x143 iovdd iovss vdd vss sg13cmos5l_IOPadIOVss
x28 iovdd iovss vdd vss sg13cmos5l_Filler4000
x29 iovdd iovss vdd vss sg13cmos5l_Filler4000
x30 iovdd iovss vdd vss sg13cmos5l_Filler4000
x35 iovdd iovss vdd vss sg13cmos5l_Filler4000
x38 iovdd iovss vdd vss sg13cmos5l_Filler4000
x41 iovdd iovss vdd vss sg13cmos5l_Filler4000
x44 iovdd iovss vdd vss sg13cmos5l_Filler4000
x47 iovdd iovss vdd vss sg13cmos5l_Filler4000
x50 iovdd iovss vdd vss sg13cmos5l_Filler4000
x53 iovdd iovss vdd vss sg13cmos5l_Filler4000
x56 iovdd iovss vdd vss sg13cmos5l_Filler4000
x59 iovdd iovss vdd vss sg13cmos5l_Filler4000
x62 iovdd iovss vdd vss sg13cmos5l_Filler4000
x144 iovdd iovss vdd vss sg13cmos5l_Filler4000
x145 iovdd iovss vdd vss sg13cmos5l_Filler4000
x146 iovdd iovss vdd vss sg13cmos5l_Filler4000
x154 iovdd iovss vdd vss sg13cmos5l_Filler4000
x161 iovdd iovss vdd vss sg13cmos5l_Filler4000
x162 iovdd iovss vdd vss sg13cmos5l_Filler4000
x163 iovdd iovss vdd vss sg13cmos5l_Filler4000
x263 iovdd iovss vdd vss sg13cmos5l_Filler4000
x264 iovdd iovss vdd vss sg13cmos5l_Filler4000
x265 iovdd iovss vdd vss sg13cmos5l_Filler4000
x266 iovdd iovss vdd vss sg13cmos5l_Filler4000
x267 iovdd iovss vdd vss sg13cmos5l_Filler4000
x71 iovdd iovss vdd vss sg13cmos5l_Filler4000
x72 iovdd iovss vdd vss sg13cmos5l_Filler4000
x74 iovdd iovss vdd vss sg13cmos5l_Filler4000
x75 iovdd iovss vdd vss sg13cmos5l_Filler4000
x76 iovdd iovss vdd vss sg13cmos5l_Filler4000
x77 iovdd iovss vdd vss sg13cmos5l_Filler4000
x78 iovdd iovss vdd vss sg13cmos5l_Filler4000
x80 iovdd iovss vdd vss sg13cmos5l_Filler4000
x83 iovdd iovss vdd vss sg13cmos5l_Filler4000
x86 iovdd iovss vdd vss sg13cmos5l_Filler4000
x89 iovdd iovss vdd vss sg13cmos5l_Filler4000
x92 iovdd iovss vdd vss sg13cmos5l_Filler4000
x95 iovdd iovss vdd vss sg13cmos5l_Filler4000
x268 iovdd iovss vdd vss sg13cmos5l_Filler4000
x269 iovdd iovss vdd vss sg13cmos5l_Filler4000
x270 iovdd iovss vdd vss sg13cmos5l_Filler4000
x271 iovdd iovss vdd vss sg13cmos5l_Filler4000
x272 iovdd iovss vdd vss sg13cmos5l_Filler4000
x273 iovdd iovss vdd vss sg13cmos5l_Filler4000
x274 iovdd iovss vdd vss sg13cmos5l_Filler4000
x275 iovdd iovss vdd vss sg13cmos5l_Filler4000
x276 iovdd iovss vdd vss sg13cmos5l_Filler4000
x277 iovdd iovss vdd vss sg13cmos5l_Filler4000
x278 iovdd iovss vdd vss sg13cmos5l_Filler4000
x279 iovdd iovss vdd vss sg13cmos5l_Filler4000
x280 iovdd iovss vdd vss sg13cmos5l_Filler4000
x281 iovdd iovss vdd vss sg13cmos5l_Filler4000
x282 iovdd iovss vdd vss sg13cmos5l_Filler4000
x283 iovdd iovss vdd vss sg13cmos5l_Filler4000
x284 iovdd iovss vdd vss sg13cmos5l_Filler4000
x285 iovdd iovss vdd vss sg13cmos5l_Filler4000
x286 iovdd iovss vdd vss sg13cmos5l_Filler4000
x287 iovdd iovss vdd vss sg13cmos5l_Filler4000
x288 iovdd iovss vdd vss sg13cmos5l_Filler4000
**.ends

* expanding   symbol:  sg13cmos5l_IOPadAnalog.sym # of pins=6
** sym_path: /foss/designs/ristretto/ihp13g2cmos5l_ristretto/v2_feature_extr_withf/sg13cmos5l_IOPadAnalog.sym
.include /foss/pdks/ihp-sg13cmos5l/libs.ref/sg13cmos5l_io/cdl/sg13cmos5l_io.cdl

* expanding   symbol:  sg13cmos5l_IOPadVdd.sym # of pins=4
** sym_path: /foss/designs/ristretto/ihp13g2cmos5l_ristretto/v2_feature_extr_withf/sg13cmos5l_IOPadVdd.sym
.include /foss/pdks/ihp-sg13cmos5l/libs.ref/sg13cmos5l_io/cdl/sg13cmos5l_io.cdl

* expanding   symbol:  sg13cmos5l_IOPadIn.sym # of pins=6
** sym_path: /foss/designs/ristretto/ihp13g2cmos5l_ristretto/v2_feature_extr_withf/sg13cmos5l_IOPadIn.sym
.include /foss/pdks/ihp-sg13cmos5l/libs.ref/sg13cmos5l_io/cdl/sg13cmos5l_io.cdl

* expanding   symbol:  sg13cmos5l_IOPadOut16mA.sym # of pins=6
** sym_path: /foss/designs/ristretto/ihp13g2cmos5l_ristretto/v2_feature_extr_withf/sg13cmos5l_IOPadOut16mA.sym
.include /foss/pdks/ihp-sg13cmos5l/libs.ref/sg13cmos5l_io/cdl/sg13cmos5l_io.cdl

* expanding   symbol:  sg13cmos5l_IOPadIOVdd.sym # of pins=4
** sym_path: /foss/designs/ristretto/ihp13g2cmos5l_ristretto/v2_feature_extr_withf/sg13cmos5l_IOPadIOVdd.sym
.include /foss/pdks/ihp-sg13cmos5l/libs.ref/sg13cmos5l_io/cdl/sg13cmos5l_io.cdl

* expanding   symbol:  sg13cmos5l_Filler400.sym # of pins=4
** sym_path: /foss/designs/ristretto/ihp13g2cmos5l_ristretto/v2_feature_extr_withf/sg13cmos5l_Filler400.sym
.include /foss/pdks/ihp-sg13cmos5l/libs.ref/sg13cmos5l_io/cdl/sg13cmos5l_io.cdl

* expanding   symbol:  sg13cmos5l_Filler4000.sym # of pins=4
** sym_path: /foss/designs/ristretto/ihp13g2cmos5l_ristretto/v2_feature_extr_withf/sg13cmos5l_Filler4000.sym
.include /foss/pdks/ihp-sg13cmos5l/libs.ref/sg13cmos5l_io/cdl/sg13cmos5l_io.cdl

* expanding   symbol:  sg13cmos5l_IOPadVss.sym # of pins=4
** sym_path: /foss/designs/ristretto/ihp13g2cmos5l_ristretto/v2_feature_extr_withf/sg13cmos5l_IOPadVss.sym
.include /foss/pdks/ihp-sg13cmos5l/libs.ref/sg13cmos5l_io/cdl/sg13cmos5l_io.cdl

* expanding   symbol:  sg13cmos5l_IOPadIOVss.sym # of pins=4
** sym_path: /foss/designs/ristretto/ihp13g2cmos5l_ristretto/v2_feature_extr_withf/sg13cmos5l_IOPadIOVss.sym
.include /foss/pdks/ihp-sg13cmos5l/libs.ref/sg13cmos5l_io/cdl/sg13cmos5l_io.cdl

* expanding   symbol:  sg13cmos5l_Filler2000.sym # of pins=4
** sym_path: /foss/designs/ristretto/ihp13g2cmos5l_ristretto/v2_feature_extr_withf/sg13cmos5l_Filler2000.sym
.include /foss/pdks/ihp-sg13cmos5l/libs.ref/sg13cmos5l_io/cdl/sg13cmos5l_io.cdl
.end
